US05554786
Acetoxylation of 1-methylcyclohexene A 500 ml three-neck flask is charged with 15 g of 1-methylcyclohexene (0.15 moles), 150 g of acetic acid, 0.77 g of benzoquinone (7 mmoles), 1 g of active charcoal and 80 mg of palladium acetate (0.35 mmoles). The temperature is taken to 50°, then 8 g (0.17 moles) of 70% by weight hydrogen peroxide are introduced in 8 h, and the reaction is allowed to proceed for a further 2 h while maintaining the temperature at 50°. The acetic acid is then distilled (35°, 20×102Pa). The residue is distilled under vacuum (75°-80°, 15×102Pa) to provide 2-methyl-cyclohex-2-en-1-yl acetate (11 g, yield 50%).

reactant | 1-methylcyclohexene | CC1=CCCCC1 | C7H12
reactant | 1-methylcyclohexene | 0.15 moles, 15 g | CC1=CCCCC1 | C7H12
reactant | charcoal | 1 g | C | CH4
reactant | hydrogen peroxide | OO | H2O2
reactant | acetic acid | 150 g | C(C)(=O)O | C2H4O2
catalyst | palladium acetate | 0.35 mmoles, 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | benzoquinone | 7 mmoles, 0.77 g | C1(C=CC(C=C1)=O)=O | C6H4O2
product | 2-methyl-cyclohex-2-en-1-yl acetate | 11 g, yield 50% | C(C)(=O)OC1C(=CCCC1)C | C9H14O2
